US05728835
N-(2-Trifluoromethylphenyl)-4-methoxybenzenesulfonamide
Using 2-trifluoromethylaniline (1.39 g, 8.55 mmol) and 4-methoxybenzenesulfonyl chloride (1.78 g, 8.55 mmol), the procedure of Reference Example 2 was repeated to obtain 2.14 g (75.5%) of the title compound in the form of colorless solid.

reactant | 2-trifluoromethylaniline | 8.55 mmol, 1.39 g | FC(C1=C(N)C=CC=C1)(F)F | C7H6F3N
reactant | 4-methoxybenzenesulfonyl chloride | 8.55 mmol, 1.78 g | COC1=CC=C(C=C1)S(=O)(=O)Cl | C7H7ClO3S
product | N-(2-Trifluoromethylphenyl)-4-methoxybenzenesulfonamide | 2.14 g, 75.5% | FC(C1=C(C=CC=C1)NS(=O)(=O)C1=CC=C(C=C1)OC)(F)F | C14H12F3NO3S
